US07622583B2
3-(3,4-Dichloro-benzenesulfonylamino)-pyrazine-2-carboxylic acid
This title compound was prepared following procedure described in example 42 step 2 wherein 3-(3,4-dichloro-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester was treated with 2M NaOH and methanol. Usual work up afforded the above title product as a white powder. MS: (M+Na)/z=382.0.

reactant | 3-(3,4-dichloro-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C12H9Cl2N3O4S
reactant | NaOH | 2M | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(3,4-Dichloro-benzenesulfonylamino)-pyrazine-2-carboxylic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C(=NC=CN1)C(=O)O | C11H7Cl2N3O4S
